US08350044B2
Preparation of N-(2,4-dichloro-thiazol-5-yl)-3-methylsulfanyl-propionamide
To a solution of (2,4-dichloro-thiazol-5-yl)-(3-methylsulfanyl-propionyl)-carbamic acid tert-butyl ester (1.10 g, 2.97 mmol) in DCM (10 mL) was added trifluoroacetic acid (3.4 g, 2.2 mL, 30 mmol). The solution was stirred at room temperature for 15 minutes, before it was quenched slowly with saturated NaHCO3 solution. The organic layer was separated and the aqueous layer was extracted with 20 mL DCM. The combined organic layer was dried over Na2SO4 and purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to give product as a white solid (612 mg, 76%): 1H NMR (300 MHz, CDCl3) δ 8.79 (s, 1H), 2.90 (t, J=7.2 Hz, 2H), 2.79 (t, J=7.2 Hz, 2H), 2.29 (s, 3H); ESIMS m/z 271.0 (M+1).

reactant | (2,4-dichloro-thiazol-5-yl)-(3-methylsulfanyl-propionyl)-carbamic acid tert-butyl ester | 2.97 mmol, 1.10 g | C(C)(C)(C)OC(N(C(CCSC)=O)C1=C(N=C(S1)Cl)Cl)=O | C12H16Cl2N2O3S2
reactant | trifluoroacetic acid | 30 mmol, 2.2 mL, 3.4 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2,4-dichloro-thiazol-5-yl)-3-methylsulfanyl-propionamide | 612 mg, 76% | ClC=1SC(=C(N1)Cl)NC(CCSC)=O | C7H8Cl2N2OS2
